US08957070B2
N-[2-(1,3-Thiazol-2-yl)-1H-indol-7-yl]thiophene-2-sulfonamide
A mixture of 7-[(2-thienylsulfonyl)amino]-1H-indole-2-carbothioamide (0.61 g), 1-bromo-2,2-diethoxyethane (0.32 mL) and ethanol (10 mL) was heated under reflux overnight. Water was added to the reaction mixture, and the obtained crystals were filtrated, washed with water and dried. The obtained crystals were subjected to silica gel column chromatography and the title compound (0.06 g, yield 9%) was obtained as colorless crystals from a fraction eluted with ethyl acetate-hexane (1:1, volume ratio). The crystals were recrystallized from ethyl acetate-hexane. melting point 164-165° C.

reactant | 7-[(2-thienylsulfonyl)amino]-1H-indole-2-carbothioamide | 0.61 g | S1C(=CC=C1)S(=O)(=O)NC=1C=CC=C2C=C(NC12)C(N)=S | C13H11N3O2S3
reactant | 1-bromo-2,2-diethoxyethane | 0.32 mL | BrCC(OCC)OCC | C6H13BrO2
reactant | ethanol | 10 mL | C(C)O | C2H6O
solvent | Water | O | H2O
product | N-[2-(1,3-Thiazol-2-yl)-1H-indol-7-yl]thiophene-2-sulfonamide | 0.06 g, yield 9% | S1C(=NC=C1)C=1NC2=C(C=CC=C2C1)NS(=O)(=O)C=1SC=CC1 | C15H11N3O2S3
